US07109219B2
N1-Ethyl-5-(6-((ethylamino)carbonyl)aminopyrimidin-4-yl)amino-1H-1-indolecarboxamide
Sodium hydride (69 mg, 1.73 mmol) was suspended in N,N-dimethylformamide (3 ml); 6-amino-4-(1H-5-indolylamino)pyrimidine (311 mg, 1.38 mmol) was added thereto at room temperature under nitrogen stream; the reaction mixture was stirred for 30 minutes; phenyl N-ethylcarbamate (286 mg, 1.73 mmol) was added thereto; and the reaction mixture was stirred overnight. The reaction mixture was partitioned between a solvent mixture of ethyl acetate-tetrahydrofuran (1:1) and a saturated aqueous solution of sodium hydrogencarbonate; the organic layer was washed with water and brine, and dried over anhydrous sodium sulfate; the solvent was distilled off; the residue was purified by silica gel column chromatography (eluent; ethyl acetate:tetrahydrofuran=1:1); eluted fractions were concentrated; ethyl acetate was added to the residue to crystallize; and the crystals were filtered off, and dried under aeration to yield the title compound (14.3 mg, 0.039 mmol, 2.8%) as white crystals.

reactant | Sodium hydride | 1.73 mmol, 69 mg | [H-].[Na+]
reactant | 6-amino-4-(1H-5-indolylamino)pyrimidine | 1.38 mmol, 311 mg | NC1=CC(=NC=N1)NC=1C=C2C=CNC2=CC1 | C12H11N5
reactant | phenyl N-ethylcarbamate | 1.73 mmol, 286 mg | C(C)NC(OC1=CC=CC=C1)=O | C9H11NO2
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | N1-Ethyl-5-(6-((ethylamino)carbonyl)aminopyrimidin-4-yl)amino-1H-1-indolecarboxamide | 0.039 mmol, 14.3 mg, 2.8% | C(C)NC(=O)N1C=CC2=CC(=CC=C12)NC1=NC=NC(=C1)NC(=O)NCC | C18H21N7O2
